US04061627
A mixture of 4.0 g. of 5,5'-[oxybis(2-nitro-p-phenyleneazo)]bis-[6-amino-2-naphthalenesulfonic acid] disodium salt and 4.0 g. of sodium sulfide nonahydrate is dissolved in 50 ml. of water by heating on a steam bath for 15 minutes. The solution is cooled and 1.6 ml. of acetic acid is added. The mixture is then filtered through diatomaceous earth. The product is salted out of the filtrate with 25 g. of sodium acetate trihydrate at room temperature, filtered and washed with a small amount of 33% aqueous solution of sodium acetate trihydrate then with ethanol and ether. The product is dissolved in 30 ml. of hot water and filtered through diatomaceous earth. An 18 g. portion of sodium acetate trihydrate is added to the filtrate and this mixture is filtered and the product is washed with ethanol and ether to give 5,5'-[oxybis(2-amino-p-phenyleneazo)]bis-[6-amino-2-naphthalenesulfonic acid] disodium salt.

reactant | 5,5'-[oxybis(2-nitro-p-phenyleneazo)]bis-[6-amino-2-naphthalenesulfonic acid] disodium salt | [Na+].[Na+].O(C1=C(C=C(C=C1)N=NC1=C2C=CC(=CC2=CC=C1N)S(=O)(=O)[O-])[N+](=O)[O-])C1=C(C=C(C=C1)N=NC1=C2C=CC(=CC2=CC=C1N)S(=O)(=O)[O-])[N+](=O)[O-]
reactant | sodium sulfide nonahydrate | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,5'-[oxybis(2-amino-p-phenyleneazo)]bis-[6-amino-2-naphthalenesulfonic acid] disodium salt | [Na+].[Na+].O(C1=C(C=C(C=C1)N=NC1=C2C=CC(=CC2=CC=C1N)S(=O)(=O)[O-])N)C1=C(C=C(C=C1)N=NC1=C2C=CC(=CC2=CC=C1N)S(=O)(=O)[O-])N | InChI=1S/C32H26N8O7S2.2Na/c33-25-9-1-17-13-21(48(41,42)43)5-7-23(17)31(25)39-37-19-3-11-29(27(35)15-19)47-30-12-4-20(16-28(30)36)38-40-32-24-8-6-22(49(44,45)46)14-18(24)2-10-26(32)34;;/h1-16H,33-36H2,(H,41,42,43)(H,44,45,46);;/q;2*+1/p-2
